US07910740B2
[4-(2-Chloro-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 1 step e) from 77 mg (0.33 mmol) 2-chlorophenacylbromide and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The solvent was evaporated under reduced pressure and the crude reaction was stirred with methylene chloride/diethyl ether/ethanol for 15 minutes at room temperature. The product was filtered off and dried to yield 118 mg (100%) [4-(2-chloro-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a light yellow solid. MS ISP (m/e): 397.1/399.2 (100/44) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.71 (s, 1H), 9.27 (s, 1H), 7.98 (s, 1H), 7.93 (d, 1H), 7.67 (s, 1H), 7.56 (d, 1H), 7.51-7.38 (m, 4H), 7.27 (d, 1H), 3.88 (s, 3H), 2.34 (s, 3H).

reactant | 2-chlorophenacylbromide | 0.33 mmol, 77 mg | ClC1=C(C(CBr)=O)C=CC=C1 | C8H6BrClO
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
solvent | methylene chloride diethyl ether ethanol | C(Cl)Cl.C(C)OCC.C(C)O
product | [4-(2-chloro-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 118 mg, 100% | ClC1=C(C=CC=C1)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C20H17ClN4OS
